US09278950B2
Step 2. Benzyl [2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-(4-methylpiperazin-1-yl)quinolin-3-yl]carbamate
To a mixture of 3-{[(benzyloxy)carbonyl]amino}-7-(4-methylpiperazin-1-yl)quinoline-2-carboxylic acid (0.014 g, 0.034 mmol), tert-butyl [(3S,5R)-1-(3-aminopyridin-4-yl)-5-methylpiperidin-3-yl]carbamate (0.013 g, 0.041 mmol) and HATU (0.033 g, 0.086 mmol) in DMF (0.14 mL), DIPEA (0.018 mL, 0.10 mmol) was added. The mixture was stirred at room temperature for 2 h, then quenched with 5 mL of EtOAc and 3 mL of 1 M NaOH. The resulting layers were separated and the aqueous phase was further extracted with EtOAc. The combined organic phases were concentrated under reduced pressure. The residue was purified by preparative HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 30 mL/min.) to afford the sub-title compound. LCMS calc. for C39H49N8O5 [M+H]+: m/z=709.4. found: 709.5.

reactant | 3-{[(benzyloxy)carbonyl]amino}-7-(4-methylpiperazin-1-yl)quinoline-2-carboxylic acid | 0.034 mmol, 0.014 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CCN(CC1)C)C(=O)O | C23H24N4O4
reactant | tert-butyl [(3S,5R)-1-(3-aminopyridin-4-yl)-5-methylpiperidin-3-yl]carbamate | 0.041 mmol, 0.013 g | NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C)NC(OC(C)(C)C)=O | C16H26N4O2
reactant | HATU | 0.086 mmol, 0.033 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.10 mmol, 0.018 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.14 mL | CN(C)C=O | C3H7NO
product | Benzyl [2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-(4-methylpiperazin-1-yl)quinolin-3-yl]carbamate | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)N1CCN(CC1)C | C39H48N8O5
